US09278950B2
Step 7. tert-butyl ((3R,4R,5S)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-3-yl)carbamate
A solution of (2R,3R,4S)-5-azido-2-[(tert-butoxycarbonyl)amino]-3-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentyl methanesulfonate (0.59 g, 1.3 mmol) in MeOH (10 mL) was deoxygenated with nitrogen for 20 min. DIPEA (0.55 mL, 3.2 mmol) was added, followed by 10 wt % Pd on carbon (0.1 g, 0.1 mmol). The mixture was hydrogenated under hydrogen gas at 1 atm. for 2 h. The reaction mixture was then filtered and the filtrate was concentrated under reduced pressure to give the sub-title compound (0.43 g, 98%). LCMS calc. for C17H37N2O3Si (M+H)+: m/z=345.3. found: 345.2. 1H NMR (500 MHz, CDCl3) δ 4.35 (bs, 1H), 3.32 (dt, J=13.1, 6.3 Hz, 1H), 3.25 (d, J=12.3 Hz, 1H), 3.04 (t, J=8.8 Hz, 1H), 2.94 (ddd, J=13.1, 4.1, 1.5 Hz, 1H), 2.33 (dd, J=12.6, 10.5 Hz, 1H), 2.24 (dd, J=13.1, 10.9 Hz, 1H), 1.76 (bs, 1H), 1.55 (tdd, J=8.9, 6.7, 4.2 Hz, 1H), 1.41 (s, 9H), 0.92 (d, J=6.6 Hz, 3H), 0.87 (s, 9H), 0.07 (d, J=10.3 Hz, 6H) ppm.

reactant | (2R,3R,4S)-5-azido-2-[(tert-butoxycarbonyl)amino]-3-{[tert-butyl(dimethyl)silyl]oxy}-4-methylpentyl methanesulfonate | 1.3 mmol, 0.59 g | CS(=O)(=O)OC[C@H]([C@@H]([C@H](CN=[N+]=[N-])C)O[Si](C)(C)C(C)(C)C)NC(=O)OC(C)(C)C | C18H38N4O6SSi
reactant | DIPEA | 3.2 mmol, 0.55 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd on carbon | 0.1 mmol, 0.1 g | [Pd] | Pd
product | tert-butyl ((3R,4R,5S)-4-{[tert-butyl(dimethyl)silyl]oxy}-5-methylpiperidin-3-yl)carbamate | 0.43 g, 98% | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](CNC[C@@H]1C)NC(OC(C)(C)C)=O | C17H36N2O3Si
